US09079889B2
To a solution of ((1R,2S)-3-azido-1-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2-methylpropoxy)(tert-butyl)dimethylsilane (1.0 equiv.) in MeOH (0.1 M) was added PPTS (1.0 equiv.) and the mixture was stirred at rt for 14 hours, 50° C. for 2 hours and 80° C. for 1 hour. The volatiles were removed under vacuo and the residue was purified via silica gel column chromatography (10-25% EtOAc/n-heptanes) yielding (2R,3R,4S)-5-azido-3-(tert-butyldimethylsilyloxy)-4-methylpentane-1,2-diol (40%).

reactant | ((1R,2S)-3-azido-1-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2-methylpropoxy)(tert-butyl)dimethylsilane | 1.0 equiv. | N(=[N+]=[N-])C[C@@H]([C@@H](O[Si](C)(C)C(C)(C)C)[C@@H]1OC(OC1)(C)C)C | C15H31N3O3Si
reactant | PPTS | 1.0 equiv. | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | MeOH | 0.1 M | CO | CH4O
product | (2R,3R,4S)-5-azido-3-(tert-butyldimethylsilyloxy)-4-methylpentane-1,2-diol | 40% | N(=[N+]=[N-])C[C@@H]([C@H]([C@@H](CO)O)O[Si](C)(C)C(C)(C)C)C | C12H27N3O3Si
